US07326513B2
Ethyl vinyl ether was mixed in benzyl alcohol, to which was then added mercury acetate, and the mixture was stirred at room temperature for 12 hours. The reaction mixture was extracted with ethyl acetate and the ethyl acetate extract was washed with water, followed by distillation in vacuo to obtain benzyl vinyl ether.

reactant | Ethyl vinyl ether | C(=C)OCC | C4H8O
reactant | benzyl alcohol | C(C1=CC=CC=C1)O | C7H8O
catalyst | mercury acetate | C(C)(=O)[O-].[Hg+]
product | benzyl vinyl ether | C(=C)OCC1=CC=CC=C1 | C9H10O
